US06255496B1
3-[4-[2-(N-Dodecyl-N-methylamino)ethoxy]-2-vinylphenyl]propanoic acid, hydrochloride
3-[4-[2-(N-Dodecyl-N-methylamino)ethoxy]-2-vinylphenyl]propanoic acid, methyl ester (178 mg, 0.412 mmol) was saponified as described in the preparation of 3-[4-[2-(N-dodecyl-N-methylamino)ethoxy]phenyl]propanoic acid, hydrochloride and afforded the title compound (175 mg, 93%) as a clear oil.

reactant | 3-[4-[2-(N-Dodecyl-N-methylamino)ethoxy]-2-vinylphenyl]propanoic acid, methyl ester | 0.412 mmol, 178 mg | C(CCCCCCCCCCC)N(C)CCOC1=CC(=C(C=C1)CCC(=O)OC)C=C | C27H45NO3
reactant | 3-[4-[2-(N-dodecyl-N-methylamino)ethoxy]phenyl]propanoic acid, hydrochloride | Cl.C(CCCCCCCCCCC)N(C)CCOC1=CC=C(C=C1)CCC(=O)O
product | 3-[4-[2-(N-Dodecyl-N-methylamino)ethoxy]-2-vinylphenyl]propanoic acid, hydrochloride | 175 mg, 93% | Cl.C(CCCCCCCCCCC)N(C)CCOC1=CC(=C(C=C1)CCC(=O)O)C=C | InChI=1S/C26H43NO3.ClH/c1-4-6-7-8-9-10-11-12-13-14-19-27(3)20-21-30-25-17-15-24(16-18-26(28)29)23(5-2)22-25;/h5,15,17,22H,2,4,6-14,16,18-21H2,1,3H3,(H,28,29);1H
